US07875636B2
To a suspension of 2-methyl-5-hydroxypyridine (10.5 g, 96.0 mmol) and cesium carbonate (36.1 g, 111 mmol) in DMF (100 mL) was added 2,2,2-trifluoroethyl-trifluoromethanesulfonate (25.7 g, 111 mmol) dropwise over 30 min. The reaction was exothermic and the mixture, which turned to a dark brown color, was stirred for an additional 1 h. The mixture was diluted with water (200 mL) and extracted with EtOAc (200 mL). The organic layer was washed with water (100 mL) then dried over MgSO4, filtered, and concentrated to give 2-methyl-5-(2,2,2-trifluoroethoxy)pyridine as a dark oil that was used in the next step without further purification; MS (Electrospray): m/z 192.1 (M+H). To a solution of 2-methyl-5-(2,2,2-trifluoroethoxy)pyridine (30.0 g, 157 mmol) in chloroform (350 mL) was added mCPBA (50.0 g, 212 mmol, 73% purity) and the mixture was stirred at room temperature. During addition of mCPBA, the reaction turned from a deep brown color to pale red and some heat was evolved so the reaction flask with immersed in a room temperature water bath. After stirring for 1.5 h, the reaction was washed with a saturated sodium bicarbonate solution (500 mL) and the organic layer was dried over MgSO4, filtered, and concentrated to give 2-methyl-5-(2,2,2-trifluoroethoxy)pyridine-N-oxide as a yellow solid that was used directly in the next step without further purification; MS (Electrospray): m/z 208.1 (M+H). A solution of 2-methyl-5-(2,2,2-trifluoroethoxy)pyridine-N-oxide (32.5 g, 157 mmol) in acetic anhydride (100 mL) was heated at 100° C. for 1 h. LC/MS analysis of the reaction mixture indicated that all starting material was consumed. The mixture was concentrated to ˜⅓ volume and diluted with methanol (150 mL). Potassium carbonate (130 g, 941 mmol) was then added very slowly to the vigorously stirred mixture (Caution: extensive gas evolution). LC/MS analysis after 30 min indicated the presence of only the desired alcohol. Water (200 mL) was added to the mixture and the remaining methanol was removed on the rotary evaporator. The remaining aqueous solution was extracted with EtOAc (2×200 mL) and the organic layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (5-95% EtOAc/Hexanes) to give (5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol (21 g, 64%) as a yellowish oil; 1H NMR (400 MHz, CDCl3) δ 8.31 (d, J=2.8 Hz, 1H), 7.24-7.32 (m, 2H), 4.74 (s, 2H), 4.41 (q, J=8.0 Hz, 2H), 3.50 (br s, 1H); MS (Electrospray): 7/z 208.1 (M+H). To a solution of (5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol (21.0 g, 101 mmol) in dichloromethane (200 mL) was added a 15% aqueous KBr solution (20 mL) followed by a saturated bicarbonate solution (85 mL). The biphasic mixture was cooled in an ice bath and TEMPO (792 mg, 5.07 mmol) was added. After stirring for 10 min. commercial bleach (100 mL, ˜6.15% NaOCl, 115 mmol)) was added dropwise over 30 min. LC/MS of the organic layer indicated mostly desired aldehyde but some remaining alcohol. An additional 15 mL of bleach was added dropwise to bring the reaction to completion. The mixture was poured into a separatory funnel and the organic layer was separated directly into a flask for the next reaction; MS (Electrospray): m/z 206.1 (M+H). To a dichloromethane solution of 5-(2,2,2-trifluoroethoxy)pyridin-2-carboxaldehyde (19 g, 93 mmol) was added CuSO4 (37.1 g, 233 mmol) followed by (R)-2-methyl-2-propanesulfinamide (11.3 g, 93 mmol) and the mixture was stirred for 14 h at room temperature. The reaction mixture was filtered through Celite and concentrated. The crude material was purified by silica gel chromatography (0-75% EtOAc/Hexanes) to give (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methylene]propane-2-sulfinamide (19 g, 66%) as a flaky solid; 1H NMR (400 MHz, CDCl3) δ 8.66 (s, 1H), 8.47 (d, J=2.8 Hz, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.35 (dd, J=2.8 Hz and 8.8 Hz, 1H), 4.48 (q, J=8.0 Hz, 2H), 1.28 (s, 9H); MS (Electrospray): m/z 309.2 (M+H). To a −78° C. cooled solution of (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methylene]propane-2-sulfinamide (12.4 g, 40.2 mmol) in dichloromethane (200 mL) was added methylmagnesium bromide (1.4M, 60 mL, 84 mmol). The Grignard reagent was added at a rate such that the internal reaction temperature was never warmer than −75° C. After complete addition the mixture was stirred for 1 h then warmed to room temperature and quenched with a saturated ammonium chloride solution. The organic layer was separated and the aqueous layer was extracted once with EtOAc. The combined organic layer was dried over MgSO4, filtered, and concentrated to give a crude oil. 1H-NMR indicated a ˜16:1 diastereomeric ratio of products that were separated by silica gel chromatography (50-100% EtOAc/hexanes) to give (R)-2-methyl-N-[(1R)-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl]propane-2-sulfinamide (12 g, 92%) as a pale yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.29 (d, J=2.8 Hz, 1H), 7.23-7.29 (m, 2H), 4.55-4.59 (m, 2H), 4.39 (q, J=8.0 Hz, 2H), 1.49 (d, J=6.4 Hz, 3H), 1.25 (s, 9H); MS (Electrospray): m/z 325.3 (M+H). To a solution of (R)-2-methyl-N-[(1R)-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl]propane-2-sulfinamide (11.8 g, 36.4 mmol) in MeOH (40 mL) was added HCl in ether (2M, 50 mL, 100 mmol). After stirring for 15 min at room temperature, the mixture was concentrated to give a yellow oil. The oil was then swished with ether to generate a white solid that was filtered and dried under high vacuum to give (R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethylamine as the bis-hydrochloride salt; MS (Electrospray): m/z 221.1 (M+H). To a suspension of (R)-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethylamine bis-HCl (9.0 g, 31 mmol), 4-isopropylphenylacetic acid (6.0 g, 34 mmol), EDC (7.0 g, 37 mmol), and 1-hydroxy-7-azabenzotriazole (5.0 g, 37 mmol) in DMF (50 mL) was added diisopropylethylamine (21.5 mL, 123 mmol). After stirring for 2 h at room temperature, the mixture was slowly added to vigorously stirred water (500 mL) to generate a white precipitate that was filtered and dried. The resulting solid was recrystallized from hexane (˜3 g solid/200 mL hexane) to give 2-(4-isopropylphenyl)-N-[(1R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl]acetamide (9.7 g, 83%) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.20 (d, J=2.8 Hz, 1H), 7.16-7.22 (m, 6H), 6.62 (d, J=7.2 Hz, 1H), 5.07-5.14 (m, 1H), 4.37 (q, J=8.0 Hz, 2H), 3.55 (s, 2H), 2.87-2.93 (m, 1H), 1.39 (d, J=6.8 Hz, 3H), 1.25 (d, J=7.2 Hz, 6H); MS (Electrospray): m/z 381.3 (M+H).

reactant | (5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methanol | 101 mmol, 21.0 g | FC(COC=1C=CC(=NC1)CO)(F)F | C8H8F3NO2
reactant | KBr | 20 mL | [K+].[Br-]
reactant | bicarbonate | 85 mL | C([O-])(O)=O
reactant | NaOCl | 100 mL | [O-]Cl.[Na+]
reactant | 5-(2,2,2-trifluoroethoxy)pyridin-2-carboxaldehyde | 93 mmol, 19 g | FC(COC=1C=CC(=NC1)C=O)(F)F | C8H6F3NO2
reactant | (R)-2-methyl-2-propanesulfinamide | 93 mmol, 11.3 g | CC(C)(C)[S@@](=O)N | C4H11NOS
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
catalyst | CuSO4 | 233 mmol, 37.1 g | [O-]S(=O)(=O)[O-].[Cu+2]
catalyst | TEMPO | 5.07 mmol, 792 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (R)-2-methyl-N-[(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)methylene]propane-2-sulfinamide | 19 g, 66% | CC(C)(C)[S@@](=O)N=CC1=NC=C(C=C1)OCC(F)(F)F | C12H15F3N2O2S
